US04116972
Equimolar amounts of cyclohexane-1,2-dicarboxylic acid anhydride and α-(p-aminophenyl)propionic acid were treated as described in step (a) of Example 1, to yield quantitatively α-[4-(1,3-dioxo-hexahydro-2-isoindolinyl)phenyl]propionic acid, melting point 224°-226° C.

reactant | cyclohexane-1,2-dicarboxylic acid anhydride | C12C(CCCC1)C(=O)OC2=O | C8H10O3
reactant | α-(p-aminophenyl)propionic acid | NC1=CC=C(C=C1)C(C(=O)O)C | C9H11NO2
product | α-[4-(1,3-dioxo-hexahydro-2-isoindolinyl)phenyl]propionic acid | O=C1N(C(C2CCCCC12)=O)C1=CC=C(C=C1)C(C(=O)O)C | C17H19NO4
